US08455534B2
Step 2: 5-Bromo-4-fluoro-1H-indazole
To a solution of 4-bromo-3-fluoro-2-methylaniline (20 g, 98.0 mmol) in CH3CO2H (600 mL) was added NaNO2 (8.1 g, 118 mmol) at 10° C. The resulting mixture was stirred at room temperature for 4 hours. Upon completion, aqueous NaOH (50%) was added to the reaction mixture until pH was ˜7-8. The mixture was extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography on silica gel (0˜40% EtOAc in petroleum ether) affording the title compound (16 g). 1H NMR (300 MHz, DMSO-d6): δ 13.58 (br, 1H), 8.22 (s, 1H), 7.53 (t, 1H), 7.38 (d, 1H).

reactant | 4-bromo-3-fluoro-2-methylaniline | 98.0 mmol, 20 g | BrC1=C(C(=C(N)C=C1)C)F | C7H7BrFN
reactant | NaNO2 | 118 mmol, 8.1 g | N(=O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | CH3CO2H | 600 mL | CC(=O)O | C2H4O2
product | 5-Bromo-4-fluoro-1H-indazole | 16 g | BrC=1C(=C2C=NNC2=CC1)F | C7H4BrFN2
